US05378728
4-carboxy-α-(1,1-dimethylethyl)benzenemethanol
To a mixture of 1.95 grams (0.051 mole) of lithium aluminum hydride and 30 ml. of tetrahydrofuran is added a solution of 10.5 grams (0.051 mole) of 4-(2,2dimethyl-1-oxopropyl)-benzoic acid in 110 ml. of tetrahydrofuran. The mixture is stirred for 2 hours at 0°-5° C., and then quenched by the addition of sodium sulfate solution. The resulting mixture is made acidic by the cautious add ition of concentrated hydrochloric acid. The mixture is extracted with ether; and the extracts are then washed with 50% brine, dried over magnesium sulfate, filtered and evaporated. The resulting solid is dissolved in aqueous sodium hydroxide, filtered and after acidification with hydrochloric acid, again extracted with ether, dried over magnesium sulfate, filtered and evaporated to yield the title product (m.p. 161.5°-163° C.).

reactant | lithium aluminum hydride | 0.051 mole, 1.95 grams | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 4-(2,2dimethyl-1-oxopropyl)-benzoic acid | 0.051 mole, 10.5 grams | CC(C(=O)C1=CC=C(C(=O)O)C=C1)(C)C | C12H14O3
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-carboxy-α-(1,1-dimethylethyl)benzenemethanol | C(=O)(O)C1=CC=C(C=C1)C(O)C(C)(C)C | C12H16O3
